US09238667B2
(3aR,4R,9bR)-benzyl 4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate
Into a 20 mL Schlenk flask were charged [Rh(cod)2]OTf (6.4 mg) [mw. 468.34, 0.0136 mmol, s/c 50] and (2S,4S)-3,5-xylyl-skewphos (9.0 mg) [mw. 552.71, 0.0163 mmol], and the system was substituted with argon. Deaeration-treated dehydrated acetone (5 mL) was added by argon pressure supply. Under an argon atmosphere, the mixture was stirred at room temperature for 1 hr. Separately, into a 120 mL stainless autoclave were charged benzyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate (250.0 mg) [mw. 366.41, 0.682 mmol] and cyanuric acid (88.0 mg) [mw. 129.08, 0.682 mmol], and the system was substituted with argon. The catalyst in the Schlenk flask was added into the autoclave by argon pressure supply. A mixture of 2,2-dimethoxypropane (244 μL) [mw. 104.15, 2.05 mmol] and deaeration-treated dehydrated acetone (3 mL) added by argon pressure supply in the Schlenk flask was added into the autoclave by argon pressure supply. Furthermore, the inside of the Schlenk flask was washed with dehydrated acetone (2 mL), and the washing was added into the autoclave by argon pressure supply. Hydrogen was filled therein to 6 MPa, and the mixture was stirred at a reaction temperature of 60° C. for 16 hr. The reaction mixture was allowed to cool to room temperature and depressurized. The reaction mixture was subjected to high performance liquid chromatography and area percentage and optical purity of the resultant product, (3aR,4R,9bR)-benzyl 4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate, were determined to find production at a ratio of 95%. The optical purity was 22% ee.

reactant | benzyl 3-(2-methoxy-1-(phenylamino)ethylidene)-2-oxopyrrolidine-1-carboxylate | 0.682 mmol, 250.0 mg | COCC(NC1=CC=CC=C1)=C1C(N(CC1)C(=O)OCC1=CC=CC=C1)=O | C21H22N2O4
reactant | cyanuric acid | 0.682 mmol, 88.0 mg | N1C(=O)NC(=O)NC1=O | C3H3N3O3
reactant | 2,2-dimethoxypropane | 2.05 mmol, 244 μL | COC(C)(C)OC | C5H12O2
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | (3aR,4R,9bR)-benzyl 4-(methoxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | COC[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OCC2=CC=CC=C2 | C21H24N2O3
